US03969365
Following the procedure of Example 1A, 5-ethyl-1,2,4-oxadiazol-3-carboxylic acid methyl ester is reacted wth p-(β-aminoethyl)-benzenesulfonamide to yield p-[β-(5-ethyl-1,2,4-oxadiazole-3-carbonylamino)ethyl]-benzenesulfonamide in almost quantitative yield, M.P. 159°-160°C. The compound can be recrystallized from methanol.

reactant | 5-ethyl-1,2,4-oxadiazol-3-carboxylic acid methyl ester | COC(=O)C1=NOC(=N1)CC | C6H8N2O3
reactant | p-(β-aminoethyl)-benzenesulfonamide | NCCC1=CC=C(C=C1)S(=O)(=O)N | C8H12N2O2S
product | p-[β-(5-ethyl-1,2,4-oxadiazole-3-carbonylamino)ethyl]-benzenesulfonamide | quantitative yield | C(C)C1=NC(=NO1)C(=O)NCCC1=CC=C(C=C1)S(=O)(=O)N | C13H16N4O4S
